US06583135B2
Preparation of tert-Butyl 8,9-Dichloro-6-(2-hydroxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
A solution of tert-butyl 8,9-dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.95 g, 2.15 mmol) in dry THF (10 mL) was cooled to 0° C. Then, LiBH4 (0.14 g, 6.43 mmol) was added and the reaction was allowed to warm slowly to rt. After 17 h, the reaction was diluted with H2O (50 mL) followed by addition of 10% aqueous NaOH (10 mL) and extraction with EtOAc (3×50 mL). The combined organic extracts were washed with brine, dried over Na2SO4, decanted, and concentrated. The crude product was first purified by two column chromatographies (Biotage, 40M) with heptane/EtOAc (1:1) and (Biotage, 40S) with heptane/EtOAc (2:1) to give 0.51 g of impure product. Finally, crystallization from Et2O/heptane gave 0.45 g (52%) of pale yellow crystals: mp 130.5-133° C.; IR (diffuse reflectance) 3469, 2976, 2937, 2869, 1676, 1477, 1449, 1415, 1366, 1342, 1240, 1219, 1172, 1164, 853 cm−1; MS (EI) m/z 398 (M+), 400, 398, 342, 341, 270, 268, 86, 84, 57, 51; Anal. Calcd for C19H24Cl2N2O3: C, 57.15; H, 6.06; N, 7.01; found: C, 57.24; H, 6.19; N, 6.95.

reactant | tert-butyl 8,9-dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 2.15 mmol, 0.95 g | ClC=1C(=CC=2C3=C(N(C2C1)CC(=O)OCC)CCN(CC3)C(=O)OC(C)(C)C)Cl | C21H26Cl2N2O4
reactant | LiBH4 | 6.43 mmol, 0.14 g | [Li+].[BH4-]
reactant | NaOH | 10 mL | [OH-].[Na+]
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | H2O | 50 mL | O | H2O
product | tert-Butyl 8,9-Dichloro-6-(2-hydroxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.51 g | ClC=1C(=CC=2C3=C(N(C2C1)CCO)CCN(CC3)C(=O)OC(C)(C)C)Cl | C19H24Cl2N2O3
